* C:\Users\jeanv\Documents\Cours\TIPE\TestPythonLTSPICE\SimuSonore.asc
V1 Micro1 0 SINE(0 2m {Frequence} 0 0 {Phase1})
V4 Micro2 0 SINE(0 2m {Frequence} 0 0 {Phase2})
V7 Micro3 0 SINE(0 2m {Frequence} 0 0 {Phase3})
XU4 Signal1 0 N015 0 SortieMult1 N013 0 Signal2 AD835
V10 N015 0 -5
V11 N013 0 5
XU5 Signal1 SortieCrete1 P001 N004 N005 TL074
D1 N005 SortieCrete1 BAT54
C1 SortieCrete1 0 {creteCond}
V12 P001 0 15
V13 N004 0 -15
R7 SortieCrete1 0 {creteRes}
XU6 Signal2 SortieCrete2 P002 N006 N007 TL074
D2 N007 SortieCrete2 BAT54
C2 SortieCrete2 0 {creteCond}
V14 P002 0 15
V15 N006 0 -15
R8 SortieCrete2 0 {creteRes}
XU7 Signal3 SortieCrete3 P003 N008 N009 TL074
D3 N009 SortieCrete3 BAT54
C3 SortieCrete3 0 {creteCond}
V16 P003 0 15
V17 N008 0 -15
R9 SortieCrete3 0 {creteRes}
R10 SortieMult1 SortiePB1 {multPBRes}
C4 SortiePB1 0 {multPBCond}
XU8 Signal1 0 N016 0 SortieMult2 N014 0 Signal3 AD835
V18 N016 0 -5
V19 N014 0 5
R11 SortieMult2 SortiePB2 {multPBRes}
C5 SortiePB2 0 {multPBCond}
R12 N018 Micro1 {ampliAntenneRes1}
C6 N019 N018 {ampliAntenneCond}
XU9 0 N019 P004 N017 Signal1 TL074
V20 P004 0 15
V21 N017 0 -15
R13 Signal1 N019 {ampliAntenneRes3}
C7 Signal1 N018 {ampliAntenneCond}
R14 0 N018 {ampliAntenneRes2}
R1 N011 Micro2 {ampliAntenneRes1}
C8 N012 N011 {ampliAntenneCond}
XU1 0 N012 P005 N010 Signal2 TL074
V2 P005 0 15
V3 N010 0 -15
R2 Signal2 N012 {ampliAntenneRes3}
C9 Signal2 N011 {ampliAntenneCond}
R3 0 N011 {ampliAntenneRes2}
R4 N002 Micro3 {ampliAntenneRes1}
C10 N003 N002 {ampliAntenneCond}
XU2 0 N003 P006 N001 Signal3 TL074
V5 P006 0 15
V6 N001 0 -15
R5 Signal3 N003 {ampliAntenneRes3}
C11 Signal3 N002 {ampliAntenneCond}
R6 0 N002 {ampliAntenneRes2}
.model D D
.lib C:\Users\jeanv\Documents\LTspiceXVII\lib\cmp\standard.dio
.PARAM ampliAntenneRes1=200
.PARAM ampliAntenneRes2 = 350
.PARAM ampliAntenneRes3 = 210k
.PARAM ampliAntenneCond = 100n
.PARAM creteRes = 500k
.PARAM creteCond = 1u
.PARAM multPBRes = 100k
.param multPBCond=1u
.PARAM Phase1 = 261.34
.PARAM Phase2 = 47.81
.PARAM Phase3 = 259.36
.PARAM Frequence = 300
.tran 0.3
.lib C:\Users\jeanv\Downloads\ad835.cir
.lib C:\Users\jeanv\Downloads\TL074.301
.backanno
.end
