* C:\Users\jeanv\Documents\Cours\TIPE\TestPythonLTSPICE\SimuSonore.asc
V1 Micro1 0 SINE(0 2m {Frequence} 0 0 {Phase1})
V4 Micro2 0 SINE(0 2m {Frequence} 0 0 {Phase2})
V7 Micro3 0 SINE(0 2m {Frequence} 0 0 {Phase3})
XU4 Signal1 0 N015 0 SortieMult1 N013 0 Signal2 AD835
V10 N015 0 -5
V11 N013 0 5
XU5 Signal1 SortieCrete1 P001 N004 N005 TL074
D1 N005 SortieCrete1 BAT54
C1 SortieCrete1 0 {creteCond}
V12 P001 0 15
V13 N004 0 -15
R7 SortieCrete1 0 {creteRes}
XU6 Signal2 SortieCrete2 P002 N006 N007 TL074
D2 N007 SortieCrete2 BAT54
C2 SortieCrete2 0 {creteCond}
V14 P002 0 15
V15 N006 0 -15
R8 SortieCrete2 0 {creteRes}
XU7 Signal3 SortieCrete3 P003 N008 N009 TL074
D3 N009 SortieCrete3 BAT54
C3 SortieCrete3 0 {creteCond}
V16 P003 0 15
V17 N008 0 -15
R9 SortieCrete3 0 {creteRes}
R10 SortieMult1 SortiePB1 {multPBRes}
C4 SortiePB1 0 {multPBCond}
XU8 Signal1 0 N016 0 SortieMult2 N014 0 Signal3 AD835
V18 N016 0 -5
V19 N014 0 5
R11 SortieMult2 SortiePB2 {multPBRes}
C5 SortiePB2 0 {multPBCond}
R12 N018 Micro1 {ampliAntenneRes1}
C6 N019 N018 {ampliAntenneCond}
XU9 0 N019 P004 N017 Signal1 TL074
V20 P004 0 15
V21 N017 0 -15
R13 Signal1 N019 {ampliAntenneRes3}
C7 Signal1 N018 {ampliAntenneCond}
R14 0 N018 {ampliAntenneRes2}
R1 N011 Micro2 {ampliAntenneRes1}
C8 N012 N011 {ampliAntenneCond}
XU1 0 N012 P005 N010 Signal2 TL074
V2 P005 0 15
V3 N010 0 -15
R2 Signal2 N012 {ampliAntenneRes3}
C9 Signal2 N011 {ampliAntenneCond}
R3 0 N011 {ampliAntenneRes2}
R4 N002 Micro3 {ampliAntenneRes1}
C10 N003 N002 {ampliAntenneCond}
XU2 0 N003 P006 N001 Signal3 TL074
V5 P006 0 15
V6 N001 0 -15
R5 Signal3 N003 {ampliAntenneRes3}
C11 Signal3 N002 {ampliAntenneCond}
R6 0 N002 {ampliAntenneRes2}
.model D D
.lib C:\Users\jeanv\Documents\LTspiceXVII\lib\cmp\standard.dio
.PARAM ampliAntenneRes1=200
.PARAM ampliAntenneRes2 = 350
.PARAM ampliAntenneRes3 = 210k
.PARAM ampliAntenneCond = 100n
.PARAM creteRes = 500k
.PARAM creteCond = 1u
.PARAM multPBRes = 100k
.param multPBCond=1u
.PARAM Phase1={335.8454730127705}
.PARAM Phase2={77.25686743221013}
.PARAM Phase3={155.34436124761123}
.PARAM Frequence={300}
.tran 0.3
.lib C:\Users\jeanv\Downloads\ad835.cir
.lib C:\Users\jeanv\Downloads\TL074.301
.meas TRAN Amplitude1 PARAM (V(SortieCrete1))
.meas TRAN Amplitude2 PARAM (V(SortieCrete2))
.meas TRAN Amplitude3 PARAM (V(SortieCrete3))
.meas TRAN AmplitudeFondMult1 PARAM (V(SortiePB1))
.meas TRAN AmplitudeFondMult2 PARAM (V(SortiePB2))
.meas TRAN dephasage1O PARAM arccos(2*AmplitudeFondMult1*1.13 / (Amplitude2*Amplitude1))
.meas TRAN dephasage2O PARAM arccos(2*AmplitudeFondMult2*1.13 / (Amplitude3*Amplitude1))
.meas TRAN direction11O PARAM arcsin(-dephasage1O*2.0/(360))+60
.meas TRAN direction12O PARAM -(arcsin(-dephasage1O*2.0/(360)))+60
.meas TRAN direction21O PARAM arcsin(-dephasage2O*2.0/(360))-60
.meas TRAN direction22O PARAM -(arcsin(-dephasage2O*2.0/(360)))-60
.backanno
.end
